US07227023B2
N-[4-(5-fluoro-1H-indol-3-yl)butyl]-3,4-dihydro-2H-pyrano[2,3-f]quinolin-3-amine (“Compound 9”)
A solution of 3,4-dihydro-2H-pyrano[2,3-f]quinolin-3-amine (intermediate 1a) (0.20 g, 1.0 mmol), 3-(4-bromobutyl)-5-fluoro-1H-indole (0.19 g, 0.84 mmol), and triethylamine (0.28 mL, 1.68 mmol) in anhydrous dimethylsulfoxide (20 ml) was stirred at 100° C. for 14 hrs. The reaction mixture was poured into ice-H2O and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. Chromatography (5% MeOH/CH2Cl2) afforded 0.06 g (18%) of product as a light brown oil and unreacted starting material. It was converted to the HCl salt by dissolution in ethyl acetate and addition of 1M HCl/Et2O solution (2.4 eq) to generate N-[4-(5-fluoro-1H-indol-3-yl)butyl]-3,4-dihydro-2H-pyrano[2,3-f]quinolin-3-amine bis-hydrochloride salt as an off-white solid: mp 173° C./dec. MS ESI m/z 390 [M+H]+. Elemental Analysis for C24H24FN3O·2.00 HCl.3.00 H2O; Calculated: C, 55.82; H, 6.25; N, 8.14. Found: C, 55.57; H, 6.06; N, 7.76.

reactant | HCl | Cl | ClH
reactant | HCl Et2O | 1M, 2.4 eq | Cl.CCOCC
reactant | N-[4-(5-fluoro-1H-indol-3-yl)butyl]-3,4-dihydro-2H-pyrano[2,3-f]quinolin-3-amine bis-hydrochloride salt | Cl.Cl.FC=1C=C2C(=CNC2=CC1)CCCCNC1CC=2C(=C3C=CC=NC3=CC2)OC1
reactant | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(5-fluoro-1H-indol-3-yl)butyl]-3,4-dihydro-2H-pyrano[2,3-f]quinolin-3-amine | FC=1C=C2C(=CNC2=CC1)CCCCNC1CC=2C(=C3C=CC=NC3=CC2)OC1 | C24H24FN3O
